US09126998B2
1-(Azetidin-3-yl)pyrrolidine dihydrochloride
1.00 g (4.42 mmol) of tert-butyl 3-(pyrrolidin-1-yl)azetidin-1-carboxylate was initially charged in 5.3 ml of 1,4-dioxane, 5.3 ml of 4 N hydrochloric acid in 1,4-dioxane were added and the mixture was stirred at RT overnight. The reaction mixture was then concentrated, foamed with dichloromethane and dried under high vacuum. This gave 950 mg (99% of theory; purity 92%) of the title compound.

reactant | tert-butyl 3-(pyrrolidin-1-yl)azetidin-1-carboxylate | 4.42 mmol, 1.00 g | N1(CCCC1)C1CN(C1)C(=O)OC(C)(C)C | C12H22N2O2
reactant | hydrochloric acid | 4 N, 5.3 ml | Cl | ClH
solvent | 1,4-dioxane | 5.3 ml | O1CCOCC1 | C4H8O2
product | 1-(Azetidin-3-yl)pyrrolidine dihydrochloride | Cl.Cl.N1CC(C1)N1CCCC1 | InChI=1S/C7H14N2.2ClH/c1-2-4-9(3-1)7-5-8-6-7;;/h7-8H,1-6H2;2*1H
